US05569664
A mixture of 9.7 mL (0.057 mole) of triethylamine and 2.4 grams (0.002 mole) of tetrakis(triphenylphosphine)palladium(0) was stirred, and 7.3 mL (0.057 mole) of diethyl phosphite was added. To this was added 13.2 grams (0.057 mole) of 4-bromophenylmethyl acetate. The reaction mixture was warmed to about 100° C., where it stirred for 30 minutes. The reaction mixture was cooled, and 200 mL of ethyl acetate was added. The resultant solid was collected by filtration, and washed with 50 mL of ethyl acetate. The combined wash and filtrate were concentrated under reduced pressure to a residual oil, which was subjected to column chromatography on silica gel, with 3:7 heptane:ethyl acetate as eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 11.1 grams of 4-(diethylphosphono)phenylmethyl acetate. The NMR spectrum was consistent with the proposed structure.

reactant | triethylamine | 0.057 mole, 9.7 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphite | 0.057 mole, 7.3 mL | P(OCC)(OCC)[O-]
reactant | 4-bromophenylmethyl acetate | 0.057 mole, 13.2 grams | C(C)(=O)OCC1=CC=C(C=C1)Br | C9H9BrO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mole, 2.4 grams | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-(diethylphosphono)phenylmethyl acetate | 11.1 grams | C(C)(=O)OCC1=CC=C(C=C1)P(=O)(OCC)OCC | C13H19O5P
